US04139617
3β-Ethoxy-5-androstene-17β,19-diol diacetate is added to an aqueous methanol solution of potassium carbonate and the reaction solution stirred at room temperature for about 2 hours. The reaction mixture is poured onto water, and the oil which results is extracted into ether. The ether extract is washed with water, dried over magnesium sulfate and concentrated to dryness. Crystallization of the residue from an ether-pentane mixture yields 3β-ethoxy-5-androstene-17β,19-diol 17-acetate.

reactant | 3β-Ethoxy-5-androstene-17β,19-diol diacetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(COC(C)=O)[C@H]1CC2)OCC | C25H38O5
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
product | 3β-ethoxy-5-androstene-17β,19-diol 17-acetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(CO)[C@H]1CC2)OCC | C23H36O4
